US07479502B2
Proceeding as in Reference 9, but substituting methyl 3-formyl4-hydroxybenzoate (12.0 g, 66.6 mmol, 1 eq.) and N-bromosuccinimide (12.45 g, 69.9 mmol, 1.05 eq.) gave methyl 3-bromo-5-formyl-4-hydroxybenzoate (12.6 g) as a white solid.

reactant | methyl 3-formyl4-hydroxybenzoate | 66.6 mmol, 12.0 g, 1 eq. | C(=O)C=1C=C(C(=O)OC)C=CC1O | C9H8O4
reactant | N-bromosuccinimide | 69.9 mmol, 12.45 g, 1.05 eq. | BrN1C(CCC1=O)=O | C4H4BrNO2
product | methyl 3-bromo-5-formyl-4-hydroxybenzoate | 12.6 g | BrC=1C=C(C(=O)OC)C=C(C1O)C=O | C9H7BrO4
